US07230098B2
To a mixture of 4-[4-(6-Amino-5-hydroxy-pyridin-3-yl)-benzoyl]-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (100 mg, 0.23 mmol) and 1-(1-bromo-ethyl)-3-trifluoromethyl-benzene (64 mg, 0.25 mmol) in DMF (2 ml) was added NaH (12 mg, 0.47 mmol) at 0° C. The mixture was stirred overnight. LCMS showed that the reaction was completed, DMF and water were removed. TFA (2 mL) was added to the residue and stirred at room temperature for 3 hr. TFA was removed followed by addition of methanol. The residue was purified by prep-HPLC to afford (4-{6-Amino-5-[1-(3-trifluoromethyl-phenyl)-ethoxy]-pyridin-3-yl}-phenyl)-(3,5-dimethyl-piperazin-1-yl)-methanone (30 mg, yield 25.7%).

reactant | 4-[4-(6-Amino-5-hydroxy-pyridin-3-yl)-benzoyl]-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.23 mmol, 100 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1C)C(C1=CC=C(C=C1)C=1C=NC(=C(C1)O)N)=O)C | C23H30N4O4
reactant | 1-(1-bromo-ethyl)-3-trifluoromethyl-benzene | 0.25 mmol, 64 mg | BrC(C)C1=CC(=CC=C1)C(F)(F)F | C9H8BrF3
reactant | NaH | 0.47 mmol, 12 mg | [H-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (4-{6-Amino-5-[1-(3-trifluoromethyl-phenyl)-ethoxy]-pyridin-3-yl}-phenyl)-(3,5-dimethyl-piperazin-1-yl)-methanone | 30 mg, yield 25.7% | NC1=C(C=C(C=N1)C1=CC=C(C=C1)C(=O)N1CC(NC(C1)C)C)OC(C)C1=CC(=CC=C1)C(F)(F)F | C27H29F3N4O2
